US08049013B2
2-(4-Chloro-phenyl)-5-{4-[1-(2-hydroxy-ethyl)-azetidin-3-yloxy]-3-methoxy-phenyl}-6,7-dihydro-5H-thiazolo[5,4-c]pyridin-4-one, hydrochloride salt
Dissolve 5-[4-(azetidin-3-yloxy)-3-methoxy-phenyl]-2-(4-chloro-phenyl)-6,7-dihydro-5H-thiazolo[5,4-c]pyridin-4-one (500 mg, 1.13 mmol) and 2,5-dihydroxy-1,4-dioxane (68 mg, 1.13 mmol) in dry 1,2-dichloroethane (6.66 mL). Add sodium triacetoxyborohydride (500 mg, 2.26 mmol) and stir overnight at room temperature. Add 1 N NaOH solution to the reaction mixture and extract with CH2Cl2 (2×25 mL). Combine the organic portions and wash with water (2×25 mL). Dry the organic layer with Na2SO4, filter, and concentrate in vacuo. Purify on HPLC, 4.6×75 mm XBridge® C18, Eluent: Reverse phase gradient 5-95% MeOH/water 0.1% TFA in 10 min, 2 mL/min. Re-dissolve the acquired material in CHCl3 and add 1 N HCl/Et2O solution (160 μL), followed by concentration in vacuo to give 65 mg (13%) of the title compound. ES/MS m/z (35Cl) 486.0 [M+1]+.

reactant | 5-[4-(azetidin-3-yloxy)-3-methoxy-phenyl]-2-(4-chloro-phenyl)-6,7-dihydro-5H-thiazolo[5,4-c]pyridin-4-one | 1.13 mmol, 500 mg | N1CC(C1)OC1=C(C=C(C=C1)N1C(C2=C(CC1)N=C(S2)C2=CC=C(C=C2)Cl)=O)OC | C22H20ClN3O3S
reactant | 2,5-dihydroxy-1,4-dioxane | 1.13 mmol, 68 mg | OC1OCC(OC1)O | C4H8O4
reactant | sodium triacetoxyborohydride | 2.26 mmol, 500 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | NaOH | 1 N | [OH-].[Na+]
solvent | 1,2-dichloroethane | 6.66 mL | ClCCCl | C2H4Cl2
product | 2-(4-Chloro-phenyl)-5-{4-[1-(2-hydroxy-ethyl)-azetidin-3-yloxy]-3-methoxy-phenyl}-6,7-dihydro-5H-thiazolo[5,4-c]pyridin-4-one, hydrochloride salt | 65 mg, 13% | Cl.ClC1=CC=C(C=C1)C=1SC=2C(N(CCC2N1)C1=CC(=C(C=C1)OC1CN(C1)CCO)OC)=O | InChI=1S/C24H24ClN3O4S.ClH/c1-31-21-12-17(6-7-20(21)32-18-13-27(14-18)10-11-29)28-9-8-19-22(24(28)30)33-23(26-19)15-2-4-16(25)5-3-15;/h2-7,12,18,29H,8-11,13-14H2,1H3;1H
